US06825189B1
1-(5-Hydroxy-3-pyridyl)-homopiperazine hydrochloric acid salt (10J)
1-(5-Methoxymethoxy-3-pyridyl)-homopiperazine (8.5 g, 35.9 mmol) was stirred in hydrochloric acid (4 M, 100 ml) at room temperature for 1 h. The excess of hydrochloric acid was evaporated. A crystaline compound was obtained by triturating with a mixture of 5% methanol and ether. Yield 9.56 g, 100%. Mp 290-300° C.

reactant | 1-(5-Methoxymethoxy-3-pyridyl)-homopiperazine | 35.9 mmol, 8.5 g | COCOC=1C=C(C=NC1)N1CCNCCC1 | C12H19N3O2
reactant | hydrochloric acid | 4 M, 100 ml | Cl | ClH
product | 1-(5-Hydroxy-3-pyridyl)-homopiperazine hydrochloric acid salt | Cl.OC=1C=C(C=NC1)N1CCNCCC1 | InChI=1S/C10H15N3O.ClH/c14-10-6-9(7-12-8-10)13-4-1-2-11-3-5-13;/h6-8,11,14H,1-5H2;1H
